US04012413
A stirred mixture of 1-[2-(dimethylamino)ethyl]-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine (3.66 g., 0.01 mole) in tetrahydrofuran (100 ml.) is cooled in an ice bath, under nitrogen, and treated with 20 ml. of a 1M solution of borane in tetrahydrofuran. The mixture is allowed to warm to ambient temperature (22°-25°) and stand for 18 hours. It is then refluxed for 1 hour, cooled in an ice bath and treated with 3 ml. of 6N hydrochloric acid. This mixture is boiled for 3 hours with distillation. During this period methanol is added so that the volume of the mixture remains about constant. The mixture is then concentrated in vacuo. The residue is mixed with water, neutralized with sodium bicarbonate and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is dissolved in methanol (70 ml.) mixed with 25% aqueous ethylene diamine (42 ml.) and refluxed for 3 hours. The mixture is concentrated to remove methanol, diluted with salt water and extracted with chloroform. The extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is chromatographed over silica gel (200 g.) with methanol. The product thus obtained is crystallized from ethyl acetate-Skellysolve B (hexanes) to give 1-[2-(dimethylamino)ethyl]-8-chloro-5,6-dihydro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 131°-137° C.

reactant | 1-[2-(dimethylamino)ethyl]-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.01 mole, 3.66 g | CN(CCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)C | C20H20ClN5
reactant | borane | B | BH3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[2-(dimethylamino)ethyl]-8-chloro-5,6-dihydro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(CCC1=NN=C2N1C1=C(C(NC2)C2=CC=CC=C2)C=C(C=C1)Cl)C | C20H22ClN5
